Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[C:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]3[nH:10][n:11][cH:12][c:13]3[cH:14]2)[CH2:15][CH2:16]1.[NH2:17][CH2:18][CH2:19][F:20]>>[CH:1]1([NH:17][CH2:18][CH2:19][F:20])[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]3[nH:10][n:11][cH:12][c:13]3[cH:14]2)[CH2:15][CH2:16]1,[O:101]=[C:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]3[nH:10][n:11][cH:12][c:13]3[cH:14]2)[CH2:15][CH2:16]1.[NH2:17][CH2:18][CH2:19][F:20].[H+:301].[BH3-:302]C#N.[Na+]>>[CH:1]1([NH:17][CH2:18][CH2:19][F:20])[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][c:9]3[nH:10][n:11][cH:12][c:13]3[cH:14]2)[CH2:15][CH2:16]1,reductive_amination,"[(17, 1), ([1, 101], 301), (101, 17.1), ([17.1, 17], 17), (17, [17, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 17], 17)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][CH2:2][CH2:3][CH2:4][NH:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([N+:11](=[O:12])[O-:13])[c:14]([S:15][c:16]2[c:17]([Cl:18])[cH:19][n:20][cH:21][c:22]2[Cl:23])[s:24]1>>[OH:1][CH2:2][CH2:3][CH2:4][NH:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([N+:11](=[O:12])[O-:13])[c:14]([S:15][c:16]2[c:17]([Cl:18])[cH:19][n:20][cH:21][c:22]2[Cl:23])[s:24]1,CC(C)(C)[Si:101](C)(C)[O:1][CH2:2][CH2:3][CH2:4][NH:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([N+:11](=[O:12])[OH:13])[c:14]([S:15][c:16]2[c:17]([Cl:18])[cH:19][n:20][cH:21][c:22]2[Cl:23])[s:24]1.[F-:301]>>[OH:1][CH2:2][CH2:3][CH2:4][NH:5][C:6](=[O:7])[c:8]1[cH:9][c:10]([N+:11](=[O:12])[OH:13])[c:14]([S:15][c:16]2[c:17]([Cl:18])[cH:19][n:20][cH:21][c:22]2[Cl:23])[s:24]1,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([O:2][CH2:3][CH3:4])=[O:5].[NH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[S:13][CH2:14][c:15]1[n:16][cH:17][o:18][n:19]1>>[C:1]([O:2][CH2:3][CH3:4])(=[O:5])[NH:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[S:13][CH2:14][c:15]1[n:16][cH:17][o:18][n:19]1,[NH2:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[S:13][CH2:14][c:15]1[n:16][cH:17][o:18][n:19]1.[Cl:101][C:1]([O:2][CH2:3][CH3:4])=[O:5]>>[C:1]([O:2][CH2:3][CH3:4])(=[O:5])[NH:6][c:7]1[cH:8][cH:9][cH:10][cH:11][c:12]1[S:13][CH2:14][c:15]1[n:16][cH:17][o:18][n:19]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(6, 1), ([1, 5], 5), (5, [5, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:17][C:18](=[O:19])[c:20]1[cH:21][cH:22][c:23]2[c:24]([cH:25]1)[C:26]([c:27]1[cH:32][cH:31][cH:30][cH:29][cH:28]1)=[N:33][CH2:34][c:35]1[cH:36][n:37][c:38]([CH3:39])[n:40]1-2>>[CH3:17][CH:18]([OH:19])[c:20]1[cH:21][cH:22][c:23]2[c:24]([cH:25]1)[C:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)=[N:33][CH2:34][c:35]1[cH:36][n:37][c:38]([CH3:39])[n:40]1-2,[CH3:17][C:18](=[O:19])[c:20]1[cH:21][cH:22][c:23]2[c:24]([cH:25]1)[C:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)=[N:33][CH2:34][c:35]1[cH:36][n:37][c:38]([CH3:39])[n:40]1-2.[BH4-:301].[CH3][OH1:302]>>[CH3:17][CH:18]([OH:19])[c:20]1[cH:21][cH:22][c:23]2[c:24]([cH:25]1)[C:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)=[N:33][CH2:34][c:35]1[cH:36][n:37][c:38]([CH3:39])[n:40]1-2,carbonyl_reduction,"[([301, 301.1], 18), ([18, 19], 19), (19, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[O:7][C:8](=[O:9])[C:10]([CH3:11])([CH3:12])[CH3:13].[CH3:14][CH2:15][O:16][P:17](=[O:18])([CH2:19][CH2:20][CH2:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[CH2:29][C:30](=[O:31])[N:32]1[N:33]=[C:34]([c:35]2[cH:36][cH:37][cH:38][cH:39][cH:40]2)[CH2:41][CH:42]1[C:43](=[O:44])[OH:45]>>[CH:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])([O:7][C:8](=[O:9])[C:10]([CH3:11])([CH3:12])[CH3:13])[O:45][C:43]([CH:42]1[N:32]([C:30]([CH2:29][P:17]([O:16][CH2:15][CH3:14])(=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22][c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)=[O:31])[N:33]=[C:34]([c:35]2[cH:36][cH:37][cH:38][cH:39][cH:40]2)[CH2:41]1)=[O:44],[CH3:14][CH2:15][O:16][P:17](=[O:18])([CH2:19][CH2:20][CH2:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[CH2:29][C:30](=[O:31])[N:32]1[N:33]=[C:34]([c:35]2[cH:36][cH:37][cH:38][cH:39][cH:40]2)[CH2:41][CH:42]1[C:43](=[O:44])[OH:45].[Cl:101][CH:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[O:7][C:8](=[O:9])[C:10]([CH3:11])([CH3:12])[CH3:13]>>[CH:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])([O:7][C:8](=[O:9])[C:10]([CH3:11])([CH3:12])[CH3:13])[O:45][C:43]([CH:42]1[N:32]([C:30]([CH2:29][P:17]([O:16][CH2:15][CH3:14])(=[O:18])[CH2:19][CH2:20][CH2:21][CH2:22][c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)=[O:31])[N:33]=[C:34]([c:35]2[cH:36][cH:37][cH:38][cH:39][cH:40]2)[CH2:41]1)=[O:44],SN1,"[([1, 101], 101), (45, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
